US07576094B2
To a mixture of NaBH4 (1 g) added in portions to a solution of cooled trifluoroacetic acid and acetic acid (30 mL, v/v: 1/1), was added 6′-methoxy-5′,7′-dimethyl-3′,4′-dihydro-1′H-spiro[cyclobutane-1,2′-quinolin]-4′-ol in 10 mL THF. After 30 minutes, the reaction mixture was quenched with water and extracted with ethyl acetate (3×20 mL). The organic layer was dried with Na2SO4, evaporated, and purified by column chromatography (1-2% methanol in CH2Cl2), to give 6′-methoxy-5′,7′-dimethyl-3′,4′-dihydro-1′H-spiro[cyclobutane-1,2′-quinoline] as a brown oil (500 mg).

reactant | NaBH4 | 1 g | [BH4-].[Na+]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
reactant | 6′-methoxy-5′,7′-dimethyl-3′,4′-dihydro-1′H-spiro[cyclobutane-1,2′-quinolin]-4′-ol | COC=1C(=C2C(CC3(NC2=CC1C)CCC3)O)C | C15H21NO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6′-methoxy-5′,7′-dimethyl-3′,4′-dihydro-1′H-spiro[cyclobutane-1,2′-quinoline] | 500 mg | COC=1C(=C2CCC3(NC2=CC1C)CCC3)C | C15H21NO
